US08124629B2
Triethylamine (1.37 mL, 9.78 mmol) was added at 0° C. to a stirred solution of 1-(2-fluorophenyl)piperazine (0.705 g , 3.91 mmol) in tetrahydrofuran (12 mL) and the reaction mixture was stirred at room temperature for 15 minutes. 4-Bromo-benzenesulfonyl chloride (1.00 g, 3.91 mmol) was added to the reaction mixture at room temperature and the reaction mixture was stirred at room temperature for 5 hours. Tetrahydrofuran was evaporated off under reduced pressure. The residue was diluted with ethyl acetate (20 mL), and the inorganic salts were filtered through a celite bed. The filtrate was washed with 2.0 N aqueous HCl (8 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to provide 1.40 g (89%) of 1-(4-bromobenzenesulfonyl)-4-(2-fluoro-phenyl)piperazine as white solid. MS cald. for C16H16BrFN2O2S [M+] 399, obsd. 399.

reactant | Triethylamine | 9.78 mmol, 1.37 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(2-fluorophenyl)piperazine | 3.91 mmol, 0.705 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | 4-Bromo-benzenesulfonyl chloride | 3.91 mmol, 1.00 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 1-(4-bromobenzenesulfonyl)-4-(2-fluoro-phenyl)piperazine | 1.40 g, 89% | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C16H16BrFN2O2S
